US07087626B2
4-[2-(6-Methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoline-7-carboxylic acid(2-dimethylamino-1,1-dimethyl-ethyl)-amide
A mixture of 4-[2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoline-7-carboxylic acid(2-amino-1,1-dimethyl-ethyl)-amide (0.12 g, 0.27 mmol), sodium cyanoborohydride (0.038 g, 0.6 mmol), and acetic acid (0.077 mL, 1.3 mmol) in methanol (5 mL) is cooled to 0° C. and stirred for 10 min. A solution of 37% aqueous formaldehyde (0.086 mL, 3.1 mmol) in methanol (2 mL) is added dropwise. The mixture is allowed to warm to room temperature and stirred for 1 h. The reaction is quenched with saturated aqueous potassium carbonate solution and concentrated in vacuo. The residue is taken up in chloroform, washed with water and brine, dried (sodium sulfate) and concentrated in vacuo. The residue is chromatographed on SiO2 (8% methanol/92% dichloromethane) to yield the title compound, 33 mg (27%), as a white foam.

reactant | 4-[2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoline-7-carboxylic acid(2-amino-1,1-dimethyl-ethyl)-amide | 0.27 mmol, 0.12 g | NCC(C)(C)NC(=O)C1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC(=CC=C1)C)CCC2 | C26H28N6O
reactant | sodium cyanoborohydride | 0.6 mmol, 0.038 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 1.3 mmol, 0.077 mL | C(C)(=O)O | C2H4O2
reactant | formaldehyde | 3.1 mmol, 0.086 mL | C=O | CH2O
solvent | methanol | 5 mL | CO | CH4O
solvent | methanol | 2 mL | CO | CH4O
product | 4-[2-(6-Methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoline-7-carboxylic acid(2-dimethylamino-1,1-dimethyl-ethyl)-amide | CN(CC(C)(C)NC(=O)C1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC(=CC=C1)C)CCC2)C | C28H32N6O
